US04735940
0.94 g of diethyl azodicarboxylate and 0.71 g of triphenylphosphine were added to a solution of 1.0 g of 4,5-dihydro-N-(2-hydroxyethyl)-8-phenyl-7-oxo-7H-thieno[2,3-a]quinolizine-10-carboxamide in 27 ml of tetrahydrofuran, whereupon the reaction mixture was stirred for 24 hours. The mixture was then evaporated in vacuo, the residue was treated with water and extracted three times with methylene chloride. The organic phase was dried over sodium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel with acetonitrile/diethyl ether (2:3). By recrystallization from dioxane, there was obtained 4,5-dihydro-10-(2-oxazolin-2-yl)-8-phenyl-7H-thieno[2,3-a]quinolizin-7-one of m.p. 211°-212°.

reactant | diethyl azodicarboxylate | 0.94 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 0.71 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4,5-dihydro-N-(2-hydroxyethyl)-8-phenyl-7-oxo-7H-thieno[2,3-a]quinolizine-10-carboxamide | 1.0 g | OCCNC(=O)C=1C=C(C(N2CCC3=C(C12)SC=C3)=O)C3=CC=CC=C3 | C20H18N2O3S
solvent | tetrahydrofuran | 27 ml | O1CCCC1 | C4H8O
product | 4,5-dihydro-10-(2-oxazolin-2-yl)-8-phenyl-7H-thieno[2,3-a]quinolizin-7-one | O1C(=NCC1)C=1C=C(C(N2CCC3=C(C12)SC=C3)=O)C3=CC=CC=C3 | C20H16N2O2S
